US05767131
A solution of methyl 5-bromovalerate (5.00 g, 25.6 mmol), NaN3 (3.33 g, 51.2 mmol) and 15 ml of water in 40 ml of MeOH was refluxed for 3.5 hrs. The MeOH was removed in vacuo and residue was partitioned between CHCl3 (200 ml) and water (50 ml). The organic layer was separated and washed with water. After drying and removal of solvent, methyl 5-azidovalerate (4.01 g, 99.7%) was obtained as a colorless oil.

reactant | methyl 5-bromovalerate | 25.6 mmol, 5.00 g | BrCCCCC(=O)OC | C6H11BrO2
reactant | NaN3 | 51.2 mmol, 3.33 g | [N-]=[N+]=[N-].[Na+]
reactant | water | 15 ml | O | H2O
solvent | MeOH | 40 ml | CO | CH4O
product | methyl 5-azidovalerate | 4.01 g, 99.7% | N(=[N+]=[N-])CCCCC(=O)OC | C6H11N3O2
